US07402684B2
(R)-2-[4-(6-Methoxy-benzothiazol-2-yloxy)-phenoxymethyl]-pyrrolidine-1-carboxylic acid tert-butyl ester:
Followed the same procedure as that of step 1 in Example 99 with the use of (R)-2-(4-hydroxy-phenoxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester ((147 mg, 0.5 mmol) and 2-chloro-6-methoxy-benzothiazole (100 mg, 0.5 mmol) to afford the title product (185 mg, 77% yield); 1H NMR (400 MHz, CDCl3); δ 1.46 (s, 9H), 1.80-2.10 (m, 4H), 3.28-3.46 (m, 2H), 3.70-3.98 (m, 1H), 3.84 (s, 3H), 4.01-4.20 (m, 2H), 6.72-6.82 (m, 4H), 6.92-6.99 (m, 2H), 7.62 (d, J=8.8 Hz, 1H).

reactant | (R)-2-(4-hydroxy-phenoxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](CCC1)COC1=CC=C(C=C1)O | C16H23NO4
reactant | 2-chloro-6-methoxy-benzothiazole | 0.5 mmol, 100 mg | ClC=1SC2=C(N1)C=CC(=C2)OC | C8H6ClNOS
product | (R)-2-[4-(6-Methoxy-benzothiazol-2-yloxy)-phenoxymethyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 185 mg, 77% yield | C(C)(C)(C)OC(=O)N1[C@H](CCC1)COC1=CC=C(C=C1)OC=1SC2=C(N1)C=CC(=C2)OC | C24H28N2O5S
